US06790865B2
To a solution of ethyl 2-[3-Chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]-phenoxy]-2-methylpropionate (2.39 g) in ethanol (20 ml) was added 2N aqueous sodium hydroxide solution (8.2 ml ), and the mixture was stirred for 13 hours at room temperature. To the stirred reaction mixture was added 2N hydrochloric acid (8.2 ml) under ice-cooling. After the reaction mixture was concentrated under reduced pressure, azeotropic concentration with ethanol was undergone. The residue was washed with water (180 ml) and dried under reduced pressure to give 2-[3-chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]-2-methylpropionic acid (2.02 g).

reactant | ethyl 2-[3-Chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]-phenoxy]-2-methylpropionate | 2.39 g | ClC=1C=C(OC(C(=O)OCC)(C)C)C=CC1CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C23H30ClNO5
reactant | sodium hydroxide | 2N, 8.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 8.2 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[3-chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]-2-methylpropionic acid | 2.02 g | ClC=1C=C(OC(C(=O)O)(C)C)C=CC1CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C21H26ClNO5
